US04892872
To a solution of 3.0 g of 3-aminoquinuclidine and 3.0 g of N-methylmorpholine in 60 ml of chloroform is added 6.2 g of 6-chloro-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride under cooling and stirring followed by stirring for 2 hours. The resultant solution is washed with water, aqueous sodium hydrogen carbonate and then water, and dried over magnesium sulfate. After the solvent is distilled off under reduced pressure, the residue is recrystallized from ethanol-isopropyl ether and treated with ethanolic hydrochloric acid to give 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride, melting at 281° C. with decomposition.

reactant | 3-aminoquinuclidine | 3.0 g | NC1CN2CCC1CC2 | C7H14N2
reactant | N-methylmorpholine | 3.0 g | CN1CCOCC1 | C5H11NO
reactant | 6-chloro-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid chloride | 6.2 g | ClC=1C=C(C2=C(N(C(CO2)=O)C)C1)C(=O)Cl | C10H7Cl2NO3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-3,4-dihydro-4-methyl-3-oxo-N-(3-quinuclidinyl)-2H-1,4-benzoxazine-8-carboxamide hydrochloride | Cl.ClC=1C=C(C2=C(N(C(CO2)=O)C)C1)C(=O)NC1CN2CCC1CC2 | InChI=1S/C17H20ClN3O3.ClH/c1-20-14-7-11(18)6-12(16(14)24-9-15(20)22)17(23)19-13-8-21-4-2-10(13)3-5-21;/h6-7,10,13H,2-5,8-9H2,1H3,(H,19,23);1H
